US08378124B2
A heavy-walled glass tube was charged with ethyl (S,SS)-2-[1-(tert-butylsulfinylamino)butyl]-1,3-dithiolane-2-carboxylate (0.50 g, 1.4 mmol) and a chilled 8.0 M solution of methylamine in ethanol (5 mL, 40 mmol). The mixture was allowed to warm to room temperature and was allowed to stand for 72 hours. Distillation of the solvent at reduced pressure afforded (S,SS)-2-[1-(tert-butylsulfinylamino)butyl]-N-methyl-1,3-dithiolane-2-carboxamide (0.47 g, 98%) as a viscous amber-colored oil.

reactant | ethyl (S,SS)-2-[1-(tert-butylsulfinylamino)butyl]-1,3-dithiolane-2-carboxylate | 1.4 mmol, 0.50 g | C(C)(C)(C)[S@](=O)N[C@@H](CCC)C1(SCCS1)C(=O)OCC | C14H27NO3S3
reactant | methylamine | CN | CH5N
reactant | ethanol | 40 mmol, 5 mL | C(C)O | C2H6O
product | (S,SS)-2-[1-(tert-butylsulfinylamino)butyl]-N-methyl-1,3-dithiolane-2-carboxamide | 0.47 g, 98% | C(C)(C)(C)[S@](=O)N[C@@H](CCC)C1(SCCS1)C(=O)NC | C13H26N2O2S3
